US07057046B2
Thus obtained 3-iodo-2,3,4,5-tetrahydro-1H-pyrido[3,2-b]azepin-2-one (109 mg) was dissolved in 7 M methanolic ammonia solution (5 mL) at room temperature under argon. When the starting material was consumed, the mixture was evaporated under vacuum, and the residue was purified by silica gel chromatography to obtain 3-amino-2,3,4,5-tetrahydro-1H-pyrido[3,2-b]azepin-2-one.

reactant | 3-iodo-2,3,4,5-tetrahydro-1H-pyrido[3,2-b]azepin-2-one | 109 mg | IC1CC=2NC=CC=CC2NC1=O | C9H9IN2O
reactant | ammonia | 7 M, 5 mL | N | H3N
product | 3-amino-2,3,4,5-tetrahydro-1H-pyrido[3,2-b]azepin-2-one | NC1CC=2NC=CC=CC2NC1=O | C9H11N3O
